US06998416B2
EDCI Coupling Procedure
To a stirred solution of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (42.3 mg, 0.214 mmol) in dry CH2Cl2 (1 mL) was added 2-methyl-1,3-thiazole-4-carboxylic acid (30.7 mg, 0.214 mmol) at room temperature under a nitrogen atmosphere. The resulting bright red mixture was allowed to stir for 1 hour, then Intermediate 51 (75 mg, 0.204 mmol) was added in one portion. After stirring at room temperature overnight, the reaction was concentrated at reduced pressure and the residue purified via radial chromatography (1 mm plate with 3% MeOH in CH2Cl2) to provide Example 27 as a clear film (21 mg, 20%).

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.214 mmol, 42.3 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-methyl-1,3-thiazole-4-carboxylic acid | 0.214 mmol, 30.7 mg | CC=1SC=C(N1)C(=O)O | C5H5NO2S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | EDCI | CCN=C=NCCCN(C)C | C8H17N3
